US06004977
2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-4-yl diethylcarbamate hydrochloride
To a mixture of 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-4-ol (1.50 g), triethylamine (1.47 g) and chloroform (15 ml), diethylcarbamyl chloride (1.07 g) in chloroform (10 ml) was added dropwise, with stirring at ambient temperature, under nitrogen. The reaction mixture was stirred under reflux for 5 hrs, at ambient temperature overnight, and poured into dilute sodium bicarbonate solution (100 ml). The layers were separated. The aqueous phase was extracted with chloroform, and the combined organic layers were dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated in vacuo. The residue was flash chromatographed (silica), eluting with 7% methanol-dichloromethane followed by 185:14:1 dichloromethane-methanol-ammonium hydroxide. The appropriate fractions were collected and evaporated. The residue was dissolved in absolute ethanol and treated with excess ethereal hydrogen chloride. The precipitate was recrystallized from ethanol-ether to give 1.20 g (50%) of product, mp 213-215° C. (dec).

reactant | 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-4-ol | 1.50 g | N1=CC=C(C=C1)NN1CC=2C=CC=C(C2C1)O | C13H13N3O
reactant | triethylamine | 1.47 g | C(C)N(CC)CC | C6H15N
reactant | diethylcarbamyl chloride | 1.07 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-4-yl diethylcarbamate hydrochloride | 1.20 g, 50% | Cl.C(C)N(C(OC1=C2CN(CC2=CC=C1)NC1=CC=NC=C1)=O)CC | InChI=1S/C18H22N4O2.ClH/c1-3-21(4-2)18(23)24-17-7-5-6-14-12-22(13-16(14)17)20-15-8-10-19-11-9-15;/h5-11H,3-4,12-13H2,1-2H3,(H,19,20);1H
